US07737166B2
2-[2-(Benzyloxy)-1,1-dimethylethyl]-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#13)
Triethylamine (222 μl, 1.59 mmol), (3S)-3-(dimethylamino)pyrrolidine (152 μl, 1.19 mmol) were added to a dimethyl sulfoxide (16.5 ml) solution of 2-[2-(benzyloxy)-1,1-dimethylethyl]-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-66) (330 mg, 0.796 mmol), followed by stirring overnight at 90° C. After cooling, the reaction liquid was diluted with ethyl acetate, washed three times with saturated brine, then dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=100:1) to obtain the entitled compound (369 mg, 91%) as a pale brown oil.

reactant | Triethylamine | 1.59 mmol, 222 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 1.19 mmol, 152 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | dimethyl sulfoxide | 16.5 ml | CS(=O)C | C2H6OS
reactant | 2-[2-(benzyloxy)-1,1-dimethylethyl]-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.796 mmol, 330 mg | C(C1=CC=CC=C1)OCC(C)(C)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C26H23FN2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(Benzyloxy)-1,1-dimethylethyl]-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 369 mg, 91% | C(C1=CC=CC=C1)OCC(C)(C)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C)C#N | C32H36N4O2
